US07932262B2
To the solution of 2-fluoro-3-(trifluoromethyl)pyridine (990 mg, 6 mmole) in 5 ml of NMP, 2-aminoethylpyrrolidine (1.13 ml, 9 mmole) and triethylamine (1 ml, 7.2 mmole) were added. The reaction solution was stirred at 85° C. for overnight. The reaction mixture was poured into 40 ml of saturated NaHCO3 and extracted with ethyl acetate (2×80 ml). The combined organic layers were washed with water (2×30 ml) and brine (30 ml), then dried over Na2SO4 and evaporated in vacuo to give a brown oily N-(2-(pyrrolidin-1-yl)ethyl)-3-(trifluoromethyl)pyridin-2-amine (1.61 g). ES/MS m/z 260.1 (MH+).

reactant | 2-fluoro-3-(trifluoromethyl)pyridine | 6 mmole, 990 mg | FC1=NC=CC=C1C(F)(F)F | C6H3F4N
reactant | 2-aminoethylpyrrolidine | 9 mmole, 1.13 ml | NCCN1CCCC1 | C6H14N2
reactant | triethylamine | 7.2 mmole, 1 ml | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | N-(2-(pyrrolidin-1-yl)ethyl)-3-(trifluoromethyl)pyridin-2-amine | 1.61 g | N1(CCCC1)CCNC1=NC=CC=C1C(F)(F)F | C12H16F3N3
